US05496947
Preparation of 1-(3-fluoro-4-pyridyl)-6-fluoro-7-(3-amino-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride
0.5 g of 1-(3-fluoro-4-pyridyl)-6-fluoro-7-(3-acetamido-1-pyrrolidyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid is added to 15 ml of ethanol, 10 ml of water and 5 ml of conc. hydrochloric acid. The reaction mixture is refluxed for 18 hours, cooled and concentrated under a reduced pressure to remove the solvent completely.

reactant | 1-(3-fluoro-4-pyridyl)-6-fluoro-7-(3-acetamido-1-pyrrolidyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.5 g | FC=1C=NC=CC1N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)NC(C)=O)F)=O)C(=O)O | C21H18F2N4O4
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 1-(3-fluoro-4-pyridyl)-6-fluoro-7-(3-amino-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | Cl.FC=1C=NC=CC1N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)N)F)=O)C(=O)O | InChI=1S/C19H16F2N4O3.ClH/c20-13-5-11-16(6-17(13)24-4-2-10(22)8-24)25(9-12(18(11)26)19(27)28)15-1-3-23-7-14(15)21;/h1,3,5-7,9-10H,2,4,8,22H2,(H,27,28);1H
